US05125957
6.00 Grams of acetylsalicylic acid chloride was dissolved in 70 ml of methylene chloride, and 7.37 g of N,N-dimethylhydroxylamine hydrochloride was added. Then, 9.16 of triethylamine was added dropwise thereto with stirring at room temperature. After completion of addition, stirring was carried out at room temperature for further 6 hours. The reaction mixture was washed with a 0.5N hydrochloric acid and then twice with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue obtained was subjected to column chromatography to obtain 3.10 g of 2-(N,N-dimethylaminooxycarbonyl)phenol.

reactant | acetylsalicylic acid chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | N,N-dimethylhydroxylamine hydrochloride | 7.37 g | Cl.CN(O)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 2-(N,N-dimethylaminooxycarbonyl)phenol | 3.10 g | CN(C)OC(=O)C1=C(C=CC=C1)O | C9H11NO3
